US06586430B1
Methyl (3S)-3-amino-3-phenylpropanoate
A solution of tert-butyl (3S)-3-amino-3-phenylpropanoate (5.04 g, 22.9 mmol) in 2.25M methanolic hydrochloric acid (100 ml) was heated under reflux for 2½ hours. The mixture was cooled to room temperature, basified with saturated sodium carbonate solution to pH 8 and the phases separated. The aqueous layer was extracted with dichloromethane (4×), the combined organic solutions were washed with brine, dried (MgSO4), filtered and evaporated under reduced pressure to afford the title compound, 3.97 g.

reactant | tert-butyl (3S)-3-amino-3-phenylpropanoate | 22.9 mmol, 5.04 g | N[C@@H](CC(=O)OC(C)(C)C)C1=CC=CC=C1 | C13H19NO2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 2.25M, 100 ml | Cl | ClH
product | Methyl (3S)-3-amino-3-phenylpropanoate | N[C@@H](CC(=O)OC)C1=CC=CC=C1 | C10H13NO2
